US09315521B2
A mixture of 5-(chloromethyl)-1-ethyl-4-methyl-1H-imidazole hydrochloride (1.0 g, 5.1 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (500 mg, 3.5 mmol), and potassium carbonate (1.2 g, 9.0 mmol) in acetone (25 mL) was stirred at room temperature overnight. The solid material was removed by filtration. The filtrate was recovered and evaporated. The crude product was purified by flash chromatography (0-6% MeOH/DCM), affording 2-{[(1-ethyl-4-methyl-1H-imidazol-5-yl)methyl]sulfanyl}-6-methyl-pyrimidin-4-ol (428 mg, 46% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.31 (t, 3H, J=6.7 Hz), 2.11 (s, 3H), 2.22 (s, 3H), 3.95 (m, 2H), 4.48 (s, 2H), 6.02 (s, 1H), 7.54 (s, 1H); M+266. The product was used without further purification.

reactant | 5-(chloromethyl)-1-ethyl-4-methyl-1H-imidazole hydrochloride | 5.1 mmol, 1.0 g | Cl.ClCC1=C(N=CN1CC)C
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 3.5 mmol, 500 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | potassium carbonate | 9.0 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 2-{[(1-ethyl-4-methyl-1H-imidazol-5-yl)methyl]sulfanyl}-6-methyl-pyrimidin-4-ol | 428 mg, 46% yield | C(C)N1C=NC(=C1CSC1=NC(=CC(=N1)O)C)C | C12H16N4OS
